US04250096
The starting material used in the above example can be prepared as follows: 3.86 g (0.02 mol) of 3-nitrophthalic anhydride and 2.9 g (0.022 mol) of 6-aminocaproic acid are heated under reflux for 8 hours and then evaporated. The solid residue is stirred with water, filtered off with suction and dried for 24 hours at 80° C. 5.7 g (93% of theory) of 6-(3-nitrophthalimidyl)-caproic acid are obtained; melting point 148°-150° C. IR spectrum (CH2Cl2): 1790 and 1725 cm-1 (CO--N--CO); 1550 and 1370 cm-1 (NO2).

reactant | 3-nitrophthalic anhydride | 0.02 mol, 3.86 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | 6-aminocaproic acid | 0.022 mol, 2.9 g | NCCCCCC(=O)O | C6H13NO2
product | 6-(3-nitrophthalimidyl)-caproic acid | 5.7 g, 93% | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)CCCCCC(=O)O)=CC=C1 | C14H14N2O6
